US06720320B2
(S)-2-(5-ethylthiophen-2-yl)-4-glycidyloxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(5-ethylthiophen-2-yl)-4-hydroxybenzo(b)furan (750 mg), (S)-glycidyl nosylate (875 mg) and potassium carbonate (1.27 g), a crude product of the title compound was quantitatively obtained as a yellow oil.

reactant | 2-(5-ethylthiophen-2-yl)-4-hydroxybenzo(b)furan | 750 mg | C(C)C1=CC=C(S1)C1=CC2=C(O1)C=CC=C2O | C14H12O2S
reactant | (S)-glycidyl nosylate | 875 mg | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 1.27 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-(5-ethylthiophen-2-yl)-4-glycidyloxybenzo(b)furan | C(C)C1=CC=C(S1)C1=CC2=C(O1)C=CC=C2OC[C@@H]2CO2 | C17H16O3S
